* AMCAS TakeHomeLab - 6T read, bitline discharge and margin
.include 45nm_bulk.txt
.param VDD=1.1 VBL=1.1

Vdd  vdd 0 'VDD'
Vwl  wl  0 PWL(0 0 1n 0 1.05n 'VDD')

MP1  qb q  vdd vdd pmos W=0.15u L=0.045u
MN1  qb q  0   0   nmos W=0.20u L=0.045u
MP2  q  qb vdd vdd pmos W=0.15u L=0.045u
MN2  q  qb 0   0   nmos W=0.20u L=0.045u

MA1  bl  wl q  0   nmos W=0.16u L=0.045u
MA2  blb wl qb 0   nmos W=0.16u L=0.045u

Cbl  bl  0 180f IC='VBL'
Cblb blb 0 180f IC='VBL'

.ic v(q)=0 v(qb)='VDD'

.control
tran 5p 4n uic
let vdiff = v(blb) - v(bl)
meas tran dv FIND vdiff AT=2.0n
meas tran qmax MAX v(q) FROM=1n TO=4n
wrdata read.csv v(bl) v(blb) v(q) v(qb)
.endc
.end